US05097011
Polymerization was conducted in the same procedures as those in Example 1 excepting for adding vinyl acetate (VA) and sodium methallyl sulfonate (MS). As a result, a copolymer with Mw=610,000, Mw×Ne=285 and AN/VA/MS=93/6.5/0.5 was obtained.

reactant | vinyl acetate | C(C)(=O)OC=C | C4H6O2
reactant | sodium methallyl sulfonate | C(C(C)=C)S(=O)(=O)[O-].[Na+]
product | VA MS | C(C)(=O)OC=C.C(C(C)=C)S(=O)(=O)[O-].[Na+] | InChI=1S/C4H8O3S.C4H6O2.Na/c1-4(2)3-8(5,6)7;1-3-6-4(2)5;/h1,3H2,2H3,(H,5,6,7);3H,1H2,2H3;/q;;+1/p-1
